US04885024
Preparation of 2-(7-fluoro-4-propargyl-2H-1,4-benzoxazin-3(4H)-on-6-yl)-4,5,6,7-tetrahydro-1,2,3-benzotriazole-1-oxide (Compound No. 1)
To a solution of 2-[2-(7-fluoro-4-propargyl-2H-1,4-benzoxazin-3(4H)-on-6-yl)hydrazino]cyclohexanone oxime (0.4 g) in tetrahydrofuran (6 ml), 15% aqueous pyridine (7 g) was added, and a solution of copper sulfate (0.7 g) in water (1.5 ml) was added thereto, followed by heating at 80° C. for 2 hours. The reaction mixture was allowed to cool, combined with water and extracted with ethyl acetate. The organic layer was washed with 10% aqueous copper sulfate solution, dried and concentrated. The residue was purified by silica gel column chromatography using ethyl acetate as an eluent to give Compound No. 1 (0.2 g). m.p., 186°-187° C.

reactant | 2-[2-(7-fluoro-4-propargyl-2H-1,4-benzoxazin-3(4H)-on-6-yl)hydrazino]cyclohexanone oxime | 0.4 g | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1NNC1C(CCCC1)=NO | C17H19FN4O3
reactant | pyridine | 7 g | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | water | 1.5 ml | O | H2O
catalyst | copper sulfate | 0.7 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | 2-(7-fluoro-4-propargyl-2H-1,4-benzoxazin-3(4H)-on-6-yl)-4,5,6,7-tetrahydro-1,2,3-benzotriazole-1-oxide | FC1=CC2=C(N(C(CO2)=O)CC#C)C=C1N1N=C2C(=[N+]1[O-])CCCC2 | C17H15FN4O3
